.SUBCKT OAI221X0P7H7R A0 A1 B0 B1 C0 VDD VSS Y
*.PININFO A0:I A1:I B0:I B1:I C0:I Y:O VDD:B VSS:B
MNM6 net31 B0 net39 VSS nm1p2_svt_lp W=175n L=60n m=1
MNM5 net31 B1 net39 VSS nm1p2_svt_lp W=175n L=60n m=1
MNM4 net39 A1 VSS VSS nm1p2_svt_lp W=175n L=60n m=1
MNM7 Y C0 net31 VSS nm1p2_svt_lp W=175n L=60n m=1
MNM0 net39 A0 VSS VSS nm1p2_svt_lp W=175n L=60n m=1
MPM4 Y B0 net22 VDD pm1p2_svt_lp W=222n L=60n m=1
MMPM1 Y A0 net18 VDD pm1p2_svt_lp W=222n L=60n m=1
MPM7 Y C0 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
MPM6 net18 A1 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
MPM5 net22 B1 VDD VDD pm1p2_svt_lp W=222n L=60n m=1
.ENDS
